US03939166
4-Chloro-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole is reacted with the sodium salt of 2,2,2,-trifluoroethanol to obtain 4-(2,2,2-trifluoroethoxy)-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole, m.w., 404.2.

reactant | 4-Chloro-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(C(F)(F)F)(F)F)[N+](=O)[O-])C#N | C10H2ClF5N4O2
reactant | sodium | [Na] | Na
reactant | 2,2,2,-trifluoroethanol | FC(CO)(F)F | C2H3F3O
product | 4-(2,2,2-trifluoroethoxy)-7-nitro-5-cyano-2-pentafluoroethylbenzimidazole | FC(COC1=C(C=C(C=2N=C(NC21)C(C(F)(F)F)(F)F)[N+](=O)[O-])C#N)(F)F | C12H4F8N4O3
